US07812045B2
2-(1-(2-(2,4-Difluorophenyl)-2-hydroxy-3-(1H-1,2,4-triazol-1-yl)propyl)-1H-indazol-5-ylamino)-N-(2,6-dimethylphenyl)acetamide
To a solution of (5-amino-1H-indazol-1-yl)-2-(2,4-difluorophenyl)-3-(1H-1,2,4-triazol-1-yl)propan-2-ol (0.1 g, 0.27 mmol) in N,N-dimethylformaide (1 ml) was slowly added potassium carbonate (0.037 g, 0.27 mmol) at 0° C. and followed by stirring for 30 min. The addition of 2-bromo-N-(2,6-dimethylphenyl)acetamide (0.065 g, 0.27 mmol) to the solution was followed by stirring at room temperature for hours and concentrated by evaporation in a vacuum condition. The crude product was purified by chromatography on silica gel to give the title compound (Yield 50%).

reactant | (5-amino-1H-indazol-1-yl)-2-(2,4-difluorophenyl)-3-(1H-1,2,4-triazol-1-yl)propan-2-ol | 0.27 mmol, 0.1 g | NC=1C=C2C=NN(C2=CC1)CC(CN1N=CN=C1)(O)C1=C(C=C(C=C1)F)F | C18H16F2N6O
reactant | potassium carbonate | 0.27 mmol, 0.037 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-N-(2,6-dimethylphenyl)acetamide | 0.27 mmol, 0.065 g | BrCC(=O)NC1=C(C=CC=C1C)C | C10H12BrNO
product | 2-(1-(2-(2,4-Difluorophenyl)-2-hydroxy-3-(1H-1,2,4-triazol-1-yl)propyl)-1H-indazol-5-ylamino)-N-(2,6-dimethylphenyl)acetamide | Yield 50% | FC1=C(C=CC(=C1)F)C(CN1N=CC2=CC(=CC=C12)NCC(=O)NC1=C(C=CC=C1C)C)(CN1N=CN=C1)O | C28H27F2N7O2
